US04937343
Preparation of 2-(4-(4-(2-pyrimidinyl)-1-piperazinyl)-butyl)-6-amino-1,2-benzisothiazol-3(2H)one 1,1-dioxide
0.03 mol of 2-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-6-nitro-1,2-benzoisothiazol-3(2H)one 1,1-dioxide is dissolved in 50 ml of concentrated hydrochloric acid, and a solution of 0.13 mol of SnCl2.2 H2O in 100 ml of concentrated hydrochloric acid is added. After the exothermic reaction is complete, the mixture is stirred for 30 minutes. The mixture is poured onto ice, filtered and the crystals are washed with water. After treatment with dilute sodium hydroxide solution, the base is extracted by shaking with methylene chloride, the solvent is evaporated off and the product is obtained as colourless crystals. Yield: 71% of theory; melting point: 150°-151° C.

reactant | 2-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-6-nitro-1,2-benzoisothiazol-3(2H)one 1,1-dioxide | 0.03 mol | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1S(C2=C(C1=O)C=CC(=C2)[N+](=O)[O-])(=O)=O | C19H22N6O5S
reactant | SnCl2 | 0.13 mol | Cl[Sn]Cl
reactant | H2O | O | H2O
solvent | hydrochloric acid | 50 ml | Cl | ClH
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 2-(4-(4-(2-pyrimidinyl)-1-piperazinyl)-butyl)-6-amino-1,2-benzisothiazol-3(2H)one 1,1-dioxide | Yield: 71% | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1S(C2=C(C1=O)C=CC(=C2)N)(=O)=O | C19H24N6O3S
